US04958036
A. [1S-[1α,2β,3β,4α]]-3-[[[(Phenylmethoxy)carbonyl](phenylmethyl)amino]-7-oxabicyclo[2.2.1]heptane-2-methanol
To a solution of 1.6 gm (0.01 mole) of Example 8 amino alcohol in 20 ml chloroform is added triethylamine (1.1 gm, 0.011 mole) followed by benzylbromide (1.7 gm, 0.01 mole). The mixture is refluxed for 10 hours where upon TLC indicates the absence of any starting material. The residue obtained on removal of the solvent is dissolved in 10 ml THF and 10 ml water and 1.4 gms of potassium carbonate is added to it and the mixture cooled in an ice bath to 0-5° C. Benzyloxycarbonyl chloride (Z-Cl), (2 gm, 0.011 mole) is added to it and the mixture stirred at 0-5° C. for 2 hours. It is diluted with water and extracted with ethyl acetate. The crude material obtained on evaporation of the solvent is chromatographed using silica gel and ethyl-acetate hexane solvent (1:1) system to produce title compound.

reactant | amino alcohol | NO | H3NO
reactant | triethylamine | 0.011 mole, 1.1 gm | C(C)N(CC)CC | C6H15N
reactant | benzylbromide | 0.01 mole, 1.7 gm | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.4 gms | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyloxycarbonyl chloride | 0.011 mole, 2 gm | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | [[(Phenylmethoxy)carbonyl](phenylmethyl)amino]-7-oxabicyclo[2.2.1]heptane-2-methanol | C1(=CC=CC=C1)COC(=O)N(CC1=CC=CC=C1)C12C(CC(CC1)O2)CO | C22H25NO4
